US04731472
Step E: 3-(5,6-Dichloro-2,3,9,9a-tetrahydro-3-oxo-9a-propyl-1H-fluoren-7-yl)propionic acid
3-[6,7-Dichloro-2,3-dihydro-1-oxo-2-(3-oxobutyl)-2-propyl-inden-5-yl]propionic acid (3.1 g, 0.00805 mole) was stirred at 25° C. in a mixture of methanol (2 ml), water (6 ml) and 1N sodium hydroxide (25 ml) for 96 hours. After dilution with water, the mixture was acidified with hydrochloric acid and extracted with a mixture of diethyl ether and tetrahydrofuran. The organic extracts were washed with water, dried over MgSO4 and concentrated under vacuum. The residue was recrystallized from acetic acid-acetonitrile (1:1) to obtain the product mp 201°-3° C.

reactant | 3-[6,7-Dichloro-2,3-dihydro-1-oxo-2-(3-oxobutyl)-2-propyl-inden-5-yl]propionic acid | 0.00805 mole, 3.1 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(CCC)CCC(C)=O)CCC(=O)O | C19H22Cl2O4
reactant | water | 6 ml | O | H2O
reactant | sodium hydroxide | 1N, 25 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 3-(5,6-Dichloro-2,3,9,9a-tetrahydro-3-oxo-9a-propyl-1H-fluoren-7-yl)propionic acid | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)CCC(=O)O)CCC)=O | C19H20Cl2O3
